US07435837B2
To a solution of 2-allyl-5-methoxyphenol (20.30 g, 0.124 mol) in DMF (500 mL) was added potassium carbonate (68.35 g, 0.495 mol) followed by benzyl bromide (23.26 g, 0.136 mol) and tetrabutylammonium iodide (4.57 g, 0.012 mol). The reaction mixture was allowed to stir at room temperature for 12 h. The reaction mixture was diluted with water (1000 mL) to dissolve any solids and extracted with diethyl ether (3×250 mL). The combined organic layers were washed with water (4×500 mL), saturated aqueous sodium chloride (400 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:19) provided 28.44 g (90%) of 1-allyl-2-(benzyloxy)-4-methoxybenzene as a colorless oil. Rf=0.88 (silica, ethyl acetate:hexanes 1:9); Anal. calcd. for C17H18O2: C, 80.28; H, 7.13. Found: C, 82.43; H, 7.09.

reactant | 2-allyl-5-methoxyphenol | 0.124 mol, 20.30 g | C(C=C)C1=C(C=C(C=C1)OC)O | C10H12O2
reactant | potassium carbonate | 0.495 mol, 68.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.136 mol, 23.26 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.012 mol, 4.57 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 1000 mL | O | H2O
product | 1-allyl-2-(benzyloxy)-4-methoxybenzene | 28.44 g, 90% | C(C=C)C1=C(C=C(C=C1)OC)OCC1=CC=CC=C1 | C17H18O2
